US07566781B2
Ethyl 3-(3-methyl-6-nitroimidazo[1,2-a]pyridin-2-yl)propionate
Trifluoroacetic anhydride (3 mL) was added to a dichloromethane solution (6 mL) of ethyl 5-[2-{[(4-methylphenyl)sulfonyl]imino}-5-nitropyridin-1(2H)-yl]-4-oxohexanoate (635 mg) obtained in Production Example 47-4, at room temperature. The reaction liquid was heated up to 40° C., stirred for 6 hours, and then concentrated under reduced pressure. Aqueous saturated sodium hydrogencarbonate solution was added to the residue, and extracted with ethyl acetate. The organic layer was dried with sodium sulfate, concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (ethyl acetate/chloroform/hexane=1/1/1) to obtain the entitled compound (328 mg).

reactant | Trifluoroacetic anhydride | 3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl 5-[2-{[(4-methylphenyl)sulfonyl]imino}-5-nitropyridin-1(2H)-yl]-4-oxohexanoate | 635 mg | CC1=CC=C(C=C1)S(=O)(=O)N=C1N(C=C(C=C1)[N+](=O)[O-])C(C(CCC(=O)OCC)=O)C | C20H23N3O7S
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | Ethyl 3-(3-methyl-6-nitroimidazo[1,2-a]pyridin-2-yl)propionate | 328 mg | CC1=C(N=C2N1C=C(C=C2)[N+](=O)[O-])CCC(=O)OCC | C13H15N3O4
